US09169270B2
Synthesis of (±)-2-Acetylamino-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C26H26N3O6ClS, MW=543.12)
To an-ice cooled solution of (±)-2-amino-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (50 mg, 100 μmol, 1 eq.) and NEt3 (69 μL, 500 μmol, 5 eq.) in DCM (1 mL), acetyl chloride (14 μL, 200 μmol, 2 eq.)

reactant | (±)-2-amino-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | 100 μmol, 50 mg, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)N)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C24H24ClN3O5S
reactant | NEt3 | 500 μmol, 69 μL, 5 eq. | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 200 μmol, 14 μL, 2 eq. | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-Acetylamino-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)NC(C)=O)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C26H26ClN3O6S
